US04152441
To a solution of 7.6 g (0.0676 mol) of 1-(methoxymethyl)imidazole and 8.1 g (0.0676 mol) of N,N,N',N'-tetramethylethylenediamine in 150 ml of anhydrous tetrahydrofuran were added dropwise under a nitrogen atmosphere at -60° C., 43 ml. (0.070 mol) of n-butyl lithium solution (15% in n-hexane). The solution was stirred at -60° C. for one hour. Then 23 g (0.0676 mol) of 2,2',4,4'-tetrachlorobenzophenone (prepared as described by S. D. Wilson and Yuan Ying Cheng, J. Org. Chem. 5, 223-6 (1940)) in 150 ml. of anhydrous tetrahydrofuran were added dropwise. The solution was stirred another hour at -60° C. and one night at room temperature. The reaction mixture was decomposed with 100 ml. of water and extracted with diethyl ether. The organic phase was dried over sodium sulphate and concentrated and the residue was extracted with a mixture of 2N hydrochloric acid and diethyl ether on which a solid substance was formed, which was crystallised from a mixture of isopropyl alcohol and diethyl ether. The product appeared to be the hydrochloride of the desired compound, contaminated with the compound without methoxymethyl group. Ammonia and diethyl ether were added to liberate the free base. The ethereal phase was concentrated and the residue was four times crystallised from a mixture of isopropyl alcohol and petroleum ether (boiling range 60°-80° C.). α,α-Bis-(2,4-dichlorophenyl)-1-(methoxymethyl)imidazole-2-methanol was obtained. Melting point 145.5°-146° C.

reactant | 1-(methoxymethyl)imidazole | 0.0676 mol, 7.6 g | COCN1C=NC=C1 | C5H8N2O
reactant | N,N,N',N'-tetramethylethylenediamine | 0.0676 mol, 8.1 g | CN(CCN(C)C)C | C6H16N2
reactant | n-butyl lithium | 0.070 mol | C(CCC)[Li]
reactant | 2,2',4,4'-tetrachlorobenzophenone | 0.0676 mol, 23 g | ClC1=C(C(=O)C2=C(C=C(C=C2)Cl)Cl)C=CC(=C1)Cl | C13H6Cl4O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | α,α-Bis-(2,4-dichlorophenyl)-1-(methoxymethyl)imidazole-2-methanol | ClC1=C(C=CC(=C1)Cl)C(O)(C=1N(C=CN1)COC)C1=C(C=C(C=C1)Cl)Cl | C18H14Cl4N2O2
